US05252567
A mixture of 2-methyl-6-methylamino-4-(4-phenylpiperidino)pyrimidine (564 mg; 2 mM) and methyl iodide (1 ml; 16 mM) in dioxan (10 ml) was heated under reflux for 15 hours. The mixture was cooled, the solvent removed in vacuo and the residue was crystallised from a mixture of methanol and ether. There was thus obtained 1,2-dimethyl-6-methylamino-4-(4-phenylpiperidino)pyrimidinium iodide (506 mg, 60% yield) m.p. 193°-196° C.; microanalysis found: C,50.6; H,5.8; N,12.9%; C18H25N4I reqiures C,50.9; H,5.9; N,13.2%; NMR (200 MHz, d6 -DMSO): 1.45-1.75 (2H, octet, piperidine 3-H axial and 5-H axial), 1.85-2.00 (2H,d, piperidine 3-H equatorial and 5-H equatorial), 2.55-2.60 (3H,s, CH3), 2.85-2.95 (3H, d, NHCH3), 3.00-3.20 (3H, br, piperidine 2-H axial and 6-H axial), 3.45-3.55 (3H, s, N--CH3), 4.4-4.8 (2H, br, piperidine 2-H equatorial and 6-H equatorial), 5.8-5.85 (1H, s, pyrimidine 5-H), 7.15-7.40 (5H, complex, aromatic), 7.7-7.85 (1H,q, NH).

reactant | 2-methyl-6-methylamino-4-(4-phenylpiperidino)pyrimidine | 2 mM, 564 mg | CC1=NC(=CC(=N1)N1CCC(CC1)C1=CC=CC=C1)NC | C17H22N4
reactant | methyl iodide | 16 mM, 1 ml | CI | CH3I
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 1,2-dimethyl-6-methylamino-4-(4-phenylpiperidino)pyrimidinium iodide | 506 mg, 60% yield | [I-].C[N+]1=C(N=C(C=C1NC)N1CCC(CC1)C1=CC=CC=C1)C | InChI=1S/C18H24N4.HI/c1-14-20-18(13-17(19-2)21(14)3)22-11-9-16(10-12-22)15-7-5-4-6-8-15;/h4-8,13,16H,9-12H2,1-3H3;1H
